US08058300B2
Step 1: 1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonitrile:
Prepared according to the procedure described in Example 2, Step 4 using 1-(4-bromo-phenyl)-cyclopropanecarbonitrile and bis(pinacolato)diboron.

reactant | 1-(4-bromo-phenyl)-cyclopropanecarbonitrile | BrC1=CC=C(C=C1)C1(CC1)C#N | C10H8BrN
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonitrile | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CC1)C#N)C | C16H20BNO2
